US04628111
11.8 g (0.1 mol) of L-threonine amide and 16.8 g (0.2 mol) of sodium hydrogencarbonate were added to 350 ml of water to obtain a solution. 17.9 g (0.105 mol) of benzyloxycarbonyl chloride was added slowly to the solution under vigorous stirring at a temperature of up to 20° C. over a period of 30 min. The mixture was stirred at room temperature for additional 5 h and a solid thus formed was filtered, washed and dried to obtain 21.4 g (yield: 85.0 %) of impure solid Z-L-Thr-NH2. 85 ml of water was added to the solid product and heated to 73° C. to obtain a solution. A small amount of an insoluble matter was filtered out and the filtrate was left to cool to room temperature and then cooled to 10° C. in an ice/water bath. Crystals thus formed were filtered and dried at a temperature of up to 40° C. under an aspirator vacuum to obtain 20.0 g of Z-L-Thr-NH2.1/2H2O. The filtration time was 2 min.

reactant | L-threonine amide | 0.1 mol, 11.8 g | N[C@@H]([C@H](O)C)C(=O)N | C4H10N2O2
reactant | sodium hydrogencarbonate | 0.2 mol, 16.8 g | C(O)([O-])=O.[Na+]
reactant | benzyloxycarbonyl chloride | 0.105 mol, 17.9 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | water | 350 ml | O | H2O
product | Z-L-Thr-NH2 | yield: 85.0 % | N([C@@H]([C@H](O)C)C(=O)N)C(=O)OCC1=CC=CC=C1 | C12H16N2O4
